US09402841B2
Step A: (S)-tert-butyl 3-((6-bromo-1,7-naphthyridin-8-yl)oxy)pyrrolidine-1-carboxylate
To (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (890 mg, 4.75 mmol) in N-methyl-2-pyrrolidinone (16 mL) at 0° C. was added NaH (60%) (158.4 mg, 3.96 mmol). The mixture was stirred for 5 minutes. Next, 1,3-dibromoisoquinoline (1139 mg, 3.96 mmol) was added and the reaction mixture was stirred at RT for 5 minutes and then heated in a microwave reactor at 135° C. for 30 minutes and at 160° C. at for another 30 minutes. The mixture was subsequently diluted with water and extracted with EtOAc (2×). The organic phase was separated, dried over Na2SO4, and concentrated. The crude product was purified by silica column chromatography eluting with a gradient of 0-75% EtOAc in hexane over a 45 minute period to give the title compound (1.3 g, 70% from two batches).

reactant | (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 4.75 mmol, 890 mg | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | NaH | 3.96 mmol, 158.4 mg | [H-].[Na+]
reactant | 1,3-dibromoisoquinoline | 3.96 mmol, 1139 mg | BrC1=NC(=CC2=CC=CC=C12)Br | C9H5Br2N
reactant | N-methyl-2-pyrrolidinone | 16 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | (S)-tert-butyl 3-((6-bromo-1,7-naphthyridin-8-yl)oxy)pyrrolidine-1-carboxylate | 1.3 g, 70% | BrC=1C=C2C=CC=NC2=C(N1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C17H20BrN3O3
